US04299842
S-trityl-alpha-mercaptopropionylglycine
To a solution of alpha-mercaptopropionyl glycine (50 g; 0.307 moles) in 300 ml of trifluoroacetic acid, were added 79.9 g (0.307 moles) of triphenylcarbinol. The thus obtained solution was kept under stirring at room temperature for 15 minutes. The excess of trifluoroacetic acid was removed by evaporation and the residue taken up with ether. Filtration yielded a white solid, which was then washed with ether and dried in vacuo to constant weight.

reactant | alpha-mercaptopropionyl glycine | 0.307 moles, 50 g | SC(C(=O)NCC(=O)O)C | C5H9NO3S
reactant | triphenylcarbinol | 0.307 moles, 79.9 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
solvent | trifluoroacetic acid | 300 ml | FC(C(=O)O)(F)F | C2HF3O2
product | S-trityl-alpha-mercaptopropionylglycine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SC(C(=O)NCC(=O)O)C | C24H23NO3S
